US08541589B2
A mixture of 2-bromo-3-fluoropyridine (1.05 g, 6.0 mmol), 4-cyanophenylboronic acid (0.882 g, 6.0 mmol), Pd(PPh3)4 (0.138 g, 0.12 mmol), and aqueous sodium carbonate solution (2M, 6 mL), in dioxane (6 mL) was degassed for 15 minutes. The mixture was sealed, heated to 80° C. for 12 hours, washed with water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, concentrated and purified by chromatography to yield 4-(3-fluoropyridin-2-yl)benzonitrile (1.16 g, 89%).

reactant | 2-bromo-3-fluoropyridine | 6.0 mmol, 1.05 g | BrC1=NC=CC=C1F | C5H3BrFN
reactant | 4-cyanophenylboronic acid | 6.0 mmol, 0.882 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | sodium carbonate | 2M, 6 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.12 mmol, 0.138 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3-fluoropyridin-2-yl)benzonitrile | 1.16 g, 89% | FC=1C(=NC=CC1)C1=CC=C(C#N)C=C1 | C12H7FN2
